US07507740B2
(ii) Production of 6-chloro-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine
6-Chloro-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5-nitropyrimidin-4-amine hydrochloride (2.04 g) was suspended in diethyl ether (9.45 mL) and a solution of tin(IV) chloride dihydrate (9.1 g) in conc. hydrochloric acid (20.17 mL) was added under ice-cooling. After stirring at room temperature for 3 hrs, the reaction mixture was poured into ice water (400 mL). A 50% aqueous sodium hydroxide solution (18 mL) was added dropwise to adjust pH to 8. Ethyl acetate (300 mL) was added and the mixture was filtered through celite. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (1.30 g).

reactant | 6-Chloro-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5-nitropyrimidin-4-amine hydrochloride | 2.04 g | Cl.ClC1=C(C(=NC=N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)[N+](=O)[O-]
reactant | tin(IV) chloride dihydrate | 9.1 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | 18 mL | [OH-].[Na+]
reactant | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 9.45 mL | C(C)OCC | C4H10O
solvent | hydrochloric acid | 20.17 mL | Cl | ClH
product | 6-chloro-N4-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}pyrimidine-4,5-diamine | 1.30 g | ClC1=C(C(=NC=N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)N | C17H16ClN5O
